US06093731
Ethyl N-[(4-Bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-N-[2-(dimethylamino)ethyl]cycloleucine dihydrochloride (95 mg, 0.17 mmol) in EtOH (3 ml) was treated with NaOH (4N, 8 ml) and the solution stirred at 60° C. for 5 h and allowed to stand for 60 h at room temperature. The reaction mixture was acidified using 2N HCl, concentrated in vacuo and the residue azeotroped with i-PrOH to give an off-white solid. This was extracted into MeOH, the solution evaporated in vacuo and the residue purified by column chromatography upon silica gel using CH2Cl2 -MeOH-0.880 NH3 (80:20:5) as eluant. The product was suspended in EtOAc, treated with ethereal HCl, the mixture evaporated in vacuo and the product triturated with EtOAc to afford N-({4-bromo-1-guanidino-7-isoquinolinyl}sulphonyl)-N-[2-(dimethylamino)ethyl]cycloleucine dihydrochloride (15 mg, 0.027 mmol) as a pale yellow solid.

reactant | Ethyl N-[(4-Bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-N-[2-(dimethylamino)ethyl]cycloleucine dihydrochloride | 0.17 mmol, 95 mg | Cl.Cl.C(C)C1C(N(CCN(C)C)S(=O)(=O)C2=CC=C3C(=CN=C(C3=C2)NC(=N)N)Br)(CCC1)C(=O)O
reactant | NaOH | 4N, 8 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-({4-bromo-1-guanidino-7-isoquinolinyl}sulphonyl)-N-[2-(dimethylamino)ethyl]cycloleucine dihydrochloride | 0.027 mmol, 15 mg | Cl.Cl.BrC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(C1(CCCC1)C(=O)O)CCN(C)C)NC(=N)N | InChI=1S/C20H27BrN6O4S.2ClH/c1-26(2)9-10-27(20(18(28)29)7-3-4-8-20)32(30,31)13-5-6-14-15(11-13)17(25-19(22)23)24-12-16(14)21;;/h5-6,11-12H,3-4,7-10H2,1-2H3,(H,28,29)(H4,22,23,24,25);2*1H
